US04386073
4.75 g (10 mmoles) of Z-Glp-Nva-Ile-NH2 are dissolved in 200 ml of acetic acid, 1 g of a 10% palladium-on-carbon catalyst is added, and hydrogen is bubbled through the mixture for one hour. The catalyst is filtered off, the filtrate is evaporated, and the residue is triturated with ether. 3.34 g (98%) of Glp-Nva-Ile-NH2 are obtained; m.p.: 267°-270° C. (decomposition), Rf5 =0.61, [α]D25 =-50.2° (c=1%, in acetic acid).

reactant | Z-Glp-Nva-Ile-NH2 | 10 mmoles, 4.75 g | N1([C@@H](CCC1=O)C(=O)N[C@@H](CCC)C(=O)N[C@@H]([C@@H](C)CC)C(=O)N)C(=O)OCC1=CC=CC=C1 | C24H34N4O6
solvent | acetic acid | 200 ml | C(C)(=O)O | C2H4O2
catalyst | palladium-on-carbon | [Pd] | Pd
product | Glp-Nva-Ile-NH2 | 3.34 g, 98% | N1[C@@H](CCC1=O)C(=O)N[C@@H](CCC)C(=O)N[C@@H]([C@@H](C)CC)C(=O)N | C16H28N4O4
